US07910556B2
Production of 2-furoyl-β-cyclohexyl-L-alanyl-glycyl-glycine
Water (0.1 mL) and 2.7 mg of lithium hydroxide hydrate (0.0643 mmol) were added to a solution of 22.5 mg of 2-furoyl-β-cyclohexyl-L-alanyl-glycyl-glycine ethyl ester (0.0552 mmol) in tetrahydrofuran (0.2 mL). After stirring for 1 hour at room temperature, water-ethanol (1:10, 0.5 mL) and 48.1 mg of IRC-50 (about 0.48 mg equivalent) were added and the mixture was stirred for 0.5 hour. IRC-50 (0.3 mg) was swelled in water-ethanol (1:10), and filled in a glass tube, and the mixture was placed on the column, and then the column was eluted by water-ethanol (1:10, 7.5 mL). The eluate was concentrated under reduced pressure, whereby 20.3 mg of the title compound was obtained as a colorless oil.

reactant | Water | 0.1 mL | O | H2O
reactant | lithium hydroxide hydrate | 0.0643 mmol, 2.7 mg | O.[OH-].[Li+]
reactant | 2-furoyl-β-cyclohexyl-L-alanyl-glycyl-glycine ethyl ester | 0.0552 mmol, 22.5 mg | C(C)OC(CNC(CNC([C@@H](NC(=O)C=1OC=CC1)CC1CCCCC1)=O)=O)=O | C20H29N3O6
solvent | tetrahydrofuran | 0.2 mL | O1CCCC1 | C4H8O
solvent | water ethanol | O.C(C)O
solvent | water ethanol | 0.5 mL | O.C(C)O
product | 2-furoyl-β-cyclohexyl-L-alanyl-glycyl-glycine | 20.3 mg | O1C(=CC=C1)C(=O)N[C@@H](CC1CCCCC1)C(=O)NCC(=O)NCC(=O)O | C18H25N3O6
